2163-03-02 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2163-3-1**] 10:17 PM
 EKG - At [**2163-3-1**] 11:00 PM
   - patient intermittently requiring 4 point restartins [**3-7**] being
   combative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-3-1**] 11:00 PM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-2**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 87 (87 - 101) bpm
   BP: 107/53(66) {90/50(60) - 117/72(84)} mmHg
   RR: 32 (26 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    719 mL
                                                                    838 mL
   PO:
           TF:
   IVF:
                                                                    619 mL
                                                                    738 mL
   Blood products:
                                                                    100 mL
                                                                    100 mL
   Total out:
                                                                    500 mL
                                                                    470 mL
   Urine:
                                                                    500 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    219 mL
                                                                    368 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   GEN: ill appearing, cachectic elderly male sleeping in bed
   HEENT: scleral icterus,
   NECK: flat JVP
   COR: regular rate no mrg, distant heart sounds
   PULM: tachypnic with increased work of breathing, rhonchorous
   throughout
   ABD: Soft, NT, markedly distended, +BS, liver palpable, other palpable
   massess scattered throughout abdomen
   EXT: 2+ pitting edema
   NEURO: sommnolent but arousable, responsive to voice, does not follow
   commands, mumbles incoherently
   Labs / Radiology
   606 K/uL
   8.6 g/dL
   244 mg/dL
   1.9 mg/dL
   23 mEq/L
   4.2 mEq/L
   63 mg/dL
   111 mEq/L
   147 mEq/L
   28.7 %
   9.5 K/uL
        [image002.jpg]  LABS FROM OVERNIGHT, this morning
s pending
                             [**2163-3-1**]  11:05 PM
   WBC
   9.5
   Hct
   28.7
   Plt
   606
   Cr
   1.9
   TropT
   0.02
   Glucose
   244
   Other labs: PT / PTT / INR:14.6/34.7/1.3, CK / CKMB /
   Troponin-T:312/12/0.02, ALT / AST:61/87, Alk Phos / T Bili:362/4.5,
   Differential-Neuts:88.8 %, Lymph:5.6 %, Mono:4.4 %, Eos:1.0 %,
   Albumin:1.5 g/dL, LDH:256 IU/L, Ca++:6.9 mg/dL, Mg++:2.5 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   Assesment: This is a 62 year-old male with a history of wide spread ca
   who presents with persistant poor mental status, tachypnea, and septic
   picture despite on antibiotics
   Plan:
   # Delerium:  Calmer this morning, required 4 point restraints
   overnight.  On admission, patient AOx1 and was tying to get out of bed
   and pulling out lines. Broad differential including infection, hepatic
   encephalopathy, acidosis, malignancy, uremia, medications.   Head CT
   was with acute process by team
s read
   - Haldol 1-2mg q8H:PRN
   - Zyprexa 5mg SL
   - try to avoid central active meds
   - delirium could be due to pain or pain meds
   - f/u final CT read of head
   - continue vano and zosyn for broad coverag
   # Sepsis - Patient met  SIRS criteria on admission with source to be
   likely source is lungs..  On admission, WBC was increasing, slightly
   hypothermic, hypotensive.   Continues to be hypotensive to 90
   - Central venous line  not needed for now
   - continue IV fluids as dry and possibly prerenal
   - Transfuse for further Hct drop <21
   - cont vanc and zosyn to cover for hospital aquired pna/bowel flora
   given ascitis and ca
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count fever curve
   # tachypnea: In 40
s this morning,  of proportion to oxygen and CxR,
   pna could be underestimated on xrayas very dry. PE despite on lovenox
   possible as significant tumor burden with possible compression on
   abdominal vena cava and now s/p paracentesis  could have released IVC
   clot, tumor emboli possible as well. Would also consider central causes
   of tachypnea e.g. sepsis, ca, pain, delirium. Ascites and tumor
   decreasing lung volume possible as well however less likely as
   tachypnea after paracentesis rather than befor. given hypotension,
   distant heart sounds, and low voltage could be tamponade, however, ekg
   unchagned over the past several weeks, no jvd, no pulsus.
   - will order echo to r/o tamponade given distant heart sounds and hx of
   malignancy though low concern
   - continue heparin gtt for known PE
   - abx for pna
 vanco and zosyn
   - symptomatic treatment (pain, etc)
   - if goals of care become comfort, could consider inhaled fnetanyl in
   placed or as adjuvant to iv morphine- inhaled fentanyl may relieve
   dyspnea with less sedative ffects compared to iv morphine
   # Metastatic Carcinoma: Likely colonic primary and is now s/p colonic
   stent placement. The pt has never met Dr. [**Last Name (STitle) 4297**] before. Given extent of
   disease and poor functional status treatment chemotherapy (?FOLFOX)
   would be palliative.   Give overall poor prognosis, no further efforts
   for definitive diagnosis are indicated
   - plan for family meeting and discussion of goal of care this afternoon
   - palliative care consult recs
   - currently full code
   # Bacterial Peritonitis:  Peritoneal fluid wbc 700(70P/9L). Peritoneal
   culture showed coag negative staph of 2 colonial morphologies and
   1+pmn. Vancomycin and Zosyn (started on [**2-25**]) and then zosyn was
   discontinued following the read on MRCP.
   - broadening coverage with zosyn to cover bowel flora (possible gi ca)
   and other gram negatives
   - vanc trough 17.9, goal 15-20, continue current dosing regimen
   # Abdominal Distension: Pt had 4.5L removed on [**3-1**], got 50gm albumin.
   Hypotension could be due to fluid shift.
   - albumin given, 50 g
   - IVF
   # Liver failure: Could be cause of MS change, cont lactulose and
   symptomatic treatment. treatment of mets per oncology
   - no indication to check ammonia level as does not correlate with level
   of hepatic encephalopahty
   - can give lactulose PR, will hold off on NGT placement pending family
   meeting regarding goals of care
   # Type I Diabetes : Continue lantus, although monitor for hypoglycemia
   in setting of imparied hepatic function.
   - Lantus + HISS
   # Constipation: Potentially secondary to opiod requiremnets, less
   likely obstruction given stent in place and no evidence of obstruction
   on imaging.
   - place pt on Senna, Lactulose.
   # ARF: most likely due to prerenal hypovolemia, possibly ATN due to
   hypotension or sepsis. unlikely meds. possible vascular
   compression/invasion. unlikely hepatorenal
   - UA and lytes
   - fluids
   - albumin
   # Anemia: iron deficiency most likely as hypochromic, microcytic and
   thrombocytosis. most likely due to gi loss or poor iron absorbtion. no
   po iron for now to avoid further constipation.
   -iron studies, b12 folate,  retic count pending
   # Hypocalcemia:6.9  last night, this morning is pending.  Partly
   uncorrected due to hypoalbuminemia, possible contribution to to poor GI
   absorption
   - trend
   # FEN:  IVF, npo for now
   # Access : peripheral, consider central line if further hypotensive
   hypoxic needing intubation
 however would hold off on line placement
   pending family meeting
   ICU Care
   Nutrition: NPO for now while altered
   Glycemic Control:  Home lantus and SSI
   Lines:
   PICC Line - [**2163-3-1**] 10:17 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: iv ppi
   VAP:  HOB elevation
   Communication:  with wife who is HCP
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2163-03-02 08:56:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status
   Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2163-3-1**] 10:17 PM
 EKG - At [**2163-3-1**] 11:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-3-2**] 08:24 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2163-3-2**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-2**] 08:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.2
   HR: 91 (87 - 101) bpm
   BP: 101/50(62) {90/50(60) - 117/72(84)} mmHg
   RR: 34 (26 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    719 mL
                                                                    976 mL
   PO:
           TF:
   IVF:
                                                                    619 mL
                                                                    876 mL
   Blood products:
                                                                    100 mL
                                                                    100 mL
   Total out:
                                                                    500 mL
                                                                    670 mL
   Urine:
                                                                    500 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    219 mL
                                                                    306 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   606 K/uL
   244 mg/dL
   1.9 mg/dL
   23 mEq/L
   4.2 mEq/L
   63 mg/dL
   111 mEq/L
   147 mEq/L
   28.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2163-3-1**]  11:05 PM
   WBC
   9.5
   Hct
   28.7
   Plt
   606
   Cr
   1.9
   TropT
   0.02
   Glucose
   244
   Other labs: PT / PTT / INR:14.6/34.7/1.3, CK / CKMB /
   Troponin-T:312/12/0.02, ALT / AST:61/87, Alk Phos / T Bili:362/4.5,
   Differential-Neuts:88.8 %, Lymph:5.6 %, Mono:4.4 %, Eos:1.0 %,
   Albumin:1.5 g/dL, LDH:256 IU/L, Ca++:6.9 mg/dL, Mg++:2.5 mg/dL, PO4:4.5
   mg/dL
   Fluid analysis / Other labs: paracentesis-
   205 WBC, <25 Poly
   Assessment and Plan
   62 yo male with history of metastatic GI malignancy and admitted with
   altered mental status.  This is likely attributable to the evolution of
   renal failure, persistent mild hypernatremia and in the setting of
   paracentesis patient did have likely significant volume shifts
   resulting in evolution of hypotension.  Most impressively patient has
   new right sided infiltrate and certainly pulmonary infection or
   pulmonary pneumonitis may well be driving acute changes at this time.
   1)Altered Mental Status--[**Month (only) 8**] be related to active infection/pneumonitis
   in addition to possible hepatic mediated encephaolopathy and metabolic
   abnormalities
   -Lactulose to be given
   -Will Rx underlying infection
   2)Hypotension
Consistent with sepsis
pulmonary source and previous Coag
   Neg Staph species
   Vaco/Zosyn for possible pneumonia
   Peritonitis does appear to be less active at this time
   Will check ECHO for possible tamponade
   Will treat pulmonary source in addition
   3)Pulmonary Embolism--Patient on Lovenox and now change to Heparin in
   the setting of renal failure
   Heparin IV to continue and recurrent PE is of concern although with BP
   stabilized lysis is not to be considered.
   4)Adenocarcinoma of unknown primary-
   -Will need discussion with Oncology
   -Will need to define any possibilities for treatment for malignancy
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   ICU Care
   Nutrition: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2163-3-1**] 10:17 PM
   Prophylaxis:
   DVT: Heparin IV
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:   Will organize family meeting with primary
   oncologist as quickly as possible given rapid clinical decline in the
   setting of substantial primary malignancy with limited treatment
   options.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2163-03-03 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Pt noted to be hypotensive in the mid 80s, minimal improvement with
   IVF. Family meeting called with Dr. [**Last Name (STitle) 4297**], family agreed to CMO only.
   -Pt started on Morphine IV for CMO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2163-3-2**] 09:53 AM
   Piperacillin/Tazobactam (Zosyn) - [**2163-3-2**] 04:06 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2163-3-2**] 08:25 AM
   Morphine Sulfate - [**2163-3-3**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-3**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 102 (81 - 102) bpm
   BP: 136/58(68) {86/46(56) - 136/73(82)} mmHg
   RR: 26 (20 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,933 mL
                  PO:
                  TF:
   IVF:
                                                                  1,833 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,560 mL
                                                                    560 mL
   Urine:
                                                                  1,560 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    373 mL
                                                                   -560 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   GEN: ill appearing, cachectic elderly male sleeping in bed
   HEENT: scleral icterus,
   NECK: flat JVP
   COR: regular rate no mrg, distant heart sounds
   PULM: tachypnic with increased work of breathing, rhonchorous
   throughout
   ABD: Soft, NT, markedly distended, +BS, liver palpable, other palpable
   massess scattered throughout abdomen
   EXT: 2+ pitting edema
   NEURO: sommnolent but arousable, responsive to voice, does not follow
   commands, mumbles incoherently
   Labs / Radiology
   554 K/uL
   7.8 g/dL
   147 mg/dL
   1.8 mg/dL
   23 mEq/L
   3.4 mEq/L
   58 mg/dL
   114 mEq/L
   148 mEq/L
   24.6 %
   11.4 K/uL
        [image002.jpg]
                             [**2163-3-1**]  11:05 PM
                             [**2163-3-2**]  09:03 AM
                             [**2163-3-2**]  04:09 PM
   WBC
   9.5
   11.2
   11.4
   Hct
   28.7
   22.9
   24.6
   Plt
   [**Telephone/Fax (3) 4333**]
   Cr
   1.9
   1.8
   TropT
   0.02
   Glucose
   244
   147
   Other labs: PT / PTT / INR:14.6/54.9/1.3, CK / CKMB /
   Troponin-T:312/12/0.02, ALT / AST:52/84, Alk Phos / T Bili:281/4.7,
   Differential-Neuts:88.8 %, Lymph:5.6 %, Mono:4.4 %, Eos:1.0 %,
   Albumin:2.0 g/dL, LDH:267 IU/L, Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.2
   mg/dL
   [1][**2163-3-1**]
   PERITONEAL FLUID
   GRAM STAIN-FINAL; FLUID CULTURE-PRELIMINARY; ANAEROBIC
   CULTURE-PRELIMINARY
   INPATIENT
   [2][**2163-3-1**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [3][**2163-2-26**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [4][**2163-2-25**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   Assessment and Plan
   Assesment: This is a 62 year-old male with a history of wide spread ca
   who presents with persistant poor mental status, tachypnea, and septic
   picture despite on antibiotics
   Plan:
   # Delerium:  Calmer this morning, required 4 point restraints
   overnight.  On admission, patient AOx1 and was tying to get out of bed
   and pulling out lines. Broad differential including infection, hepatic
   encephalopathy, acidosis, malignancy, uremia, medications.   Head CT
   was with acute process by team
s read
   - Haldol 1-2mg q8H:PRN
   - Zyprexa 5mg SL
   - try to avoid central active meds
   - delirium could be due to pain or pain meds
   - f/u final CT read of head
   - continue vano and zosyn for broad coverag
   # Sepsis - Patient met  SIRS criteria on admission with source to be
   likely source is lungs..  On admission, WBC was increasing, slightly
   hypothermic, hypotensive.   Continues to be hypotensive to 90
   - Central venous line  not needed for now
   - continue IV fluids as dry and possibly prerenal
   - Transfuse for further Hct drop <21
   - cont vanc and zosyn to cover for hospital aquired pna/bowel flora
   given ascitis and ca
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count fever curve
   # tachypnea: In 40
s this morning,  of proportion to oxygen and CxR,
   pna could be underestimated on xrayas very dry. PE despite on lovenox
   possible as significant tumor burden with possible compression on
   abdominal vena cava and now s/p paracentesis  could have released IVC
   clot, tumor emboli possible as well. Would also consider central causes
   of tachypnea e.g. sepsis, ca, pain, delirium. Ascites and tumor
   decreasing lung volume possible as well however less likely as
   tachypnea after paracentesis rather than befor. given hypotension,
   distant heart sounds, and low voltage could be tamponade, however, ekg
   unchagned over the past several weeks, no jvd, no pulsus.
   - will order echo to r/o tamponade given distant heart sounds and hx of
   malignancy though low concern
   - continue heparin gtt for known PE
   - abx for pna
 vanco and zosyn
   - symptomatic treatment (pain, etc)
   - if goals of care become comfort, could consider inhaled fnetanyl in
   placed or as adjuvant to iv morphine- inhaled fentanyl may relieve
   dyspnea with less sedative ffects compared to iv morphine
   # Metastatic Carcinoma: Likely colonic primary and is now s/p colonic
   stent placement. The pt has never met Dr. [**Last Name (STitle) 4297**] before. Given extent of
   disease and poor functional status treatment chemotherapy (?FOLFOX)
   would be palliative.   Give overall poor prognosis, no further efforts
   for definitive diagnosis are indicated
   - plan for family meeting and discussion of goal of care this afternoon
   - palliative care consult recs
   - currently full code
   # Bacterial Peritonitis:  Peritoneal fluid wbc 700(70P/9L). Peritoneal
   culture showed coag negative staph of 2 colonial morphologies and
   1+pmn. Vancomycin and Zosyn (started on [**2-25**]) and then zosyn was
   discontinued following the read on MRCP.
   - broadening coverage with zosyn to cover bowel flora (possible gi ca)
   and other gram negatives
   - vanc trough 17.9, goal 15-20, continue current dosing regimen
   # Abdominal Distension: Pt had 4.5L removed on [**3-1**], got 50gm albumin.
   Hypotension could be due to fluid shift.
   - albumin given, 50 g
   - IVF
   # Liver failure: Could be cause of MS change, cont lactulose and
   symptomatic treatment. treatment of mets per oncology
   - no indication to check ammonia level as does not correlate with level
   of hepatic encephalopahty
   - can give lactulose PR, will hold off on NGT placement pending family
   meeting regarding goals of care
   # Type I Diabetes : Continue lantus, although monitor for hypoglycemia
   in setting of imparied hepatic function.
   - Lantus + HISS
   # Constipation: Potentially secondary to opiod requiremnets, less
   likely obstruction given stent in place and no evidence of obstruction
   on imaging.
   - place pt on Senna, Lactulose.
   # ARF: most likely due to prerenal hypovolemia, possibly ATN due to
   hypotension or sepsis. unlikely meds. possible vascular
   compression/invasion. unlikely hepatorenal
   - UA and lytes
   - fluids
   - albumin
   # Anemia: iron deficiency most likely as hypochromic, microcytic and
   thrombocytosis. most likely due to gi loss or poor iron absorbtion. no
   po iron for now to avoid further constipation.
   -iron studies, b12 folate,  retic count pending
   # Hypocalcemia:6.9  last night, this morning is pending.  Partly
   uncorrected due to hypoalbuminemia, possible contribution to to poor GI
   absorption
   - trend
   # FEN:  IVF, npo for now
   # Access : peripheral, consider central line if further hypotensive
   hypoxic needing intubation
 however would hold off on line placement
   pending family meeting
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2163-3-1**] 10:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);

2163-03-03 10:30:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status
   Respiratory Distress
   Aspiration Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2163-3-2**] 09:53 AM
   Piperacillin/Tazobactam (Zosyn) - [**2163-3-2**] 04:06 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2163-3-3**] 08:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-3**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 91 (81 - 102) bpm
   BP: 108/60(71) {86/46(56) - 136/73(82)} mmHg
   RR: 26 (20 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,933 mL
                  PO:
                  TF:
   IVF:
                                                                  1,833 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,560 mL
                                                                    635 mL
   Urine:
                                                                  1,560 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    373 mL
                                                                   -635 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   554 K/uL
   147 mg/dL
   1.8 mg/dL
   23 mEq/L
   3.4 mEq/L
   58 mg/dL
   114 mEq/L
   148 mEq/L
   24.6 %
   11.4 K/uL
        [image002.jpg]
                             [**2163-3-1**]  11:05 PM
                             [**2163-3-2**]  09:03 AM
                             [**2163-3-2**]  04:09 PM
   WBC
   9.5
   11.2
   11.4
   Hct
   28.7
   22.9
   24.6
   Plt
   [**Telephone/Fax (3) 4333**]
   Cr
   1.9
   1.8
   TropT
   0.02
   Glucose
   244
   147
   Other labs: PT / PTT / INR:14.6/54.9/1.3, CK / CKMB /
   Troponin-T:312/12/0.02, ALT / AST:52/84, Alk Phos / T Bili:281/4.7,
   Differential-Neuts:88.8 %, Lymph:5.6 %, Mono:4.4 %, Eos:1.0 %,
   Albumin:2.0 g/dL, LDH:267 IU/L, Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   62 yo male with wide spread likely colon cancer now with decision made
   for no chemotherapy offered patient did have clinical decline and when
   faced with possible intubation decision made to pursue patient
   treatment plan as comfort measures only.  In that setting he had
   substantial improvement clinically with comfort care only.  We have
   readdressed the issues given his excellent improvement overnight with
   patient and his wife and will move to DNR/DNI status only.
   1)Sepsis-
   -Will continue to treat with Vanco/Zosyn for likely pulmonary source
   and peritoneal site
   -Follow up labs this am
   -BP has much improved
   2)PE-
   -Has had PE in past and raised as concern with acute chagnes as well
   -Return to heparin gtt if anemia stable and no evidence of active blood
   loss
   3)Respiratory Distress/Aspiration Pneumonia-
   -Will have speech and swallow to eval for strategies for minimization
   of aspiration events.  Significant aspiration was seen in the setting
   of severely altered mental status.
   -Continue Vanco/Zosyn
   4)Metastatic Malignancy
Likley colon CA
   -Further follow up evaluation and care per Onc team
 COMFORT CARE (CMO, COMFORT MEASURES)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PULMONARY EMBOLISM (PE), ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   ICU Care
   Nutrition: Speech and Swallow evaluation, advance diet as tolerated
   Glycemic Control:
   Lines:
   PICC Line - [**2163-3-1**] 10:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition : ICU
   Total time spent: 45 minutes